US04329367
The starting material is prepared as follows: The mixture of 100 g of 3-methyl-4-methoxybenzaldehyde, 300 ml of nitroethane and 52 g of ammonium acetate is refluxed for 4 hours and evaporated, to yield the 1-(3-methyl-4-methoxyphenyl)-2-nitropropene.

reactant | 3-methyl-4-methoxybenzaldehyde | 100 g | CC=1C=C(C=O)C=CC1OC | C9H10O2
reactant | ammonium acetate | 52 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 300 ml | [N+](=O)([O-])CC | C2H5NO2
product | 1-(3-methyl-4-methoxyphenyl)-2-nitropropene | CC=1C=C(C=CC1OC)C=C(C)[N+](=O)[O-] | C11H13NO3
